US08420640B2
A solution of 5-bromo-2-nitro-N-phenylbenzenamine (0.2 g, 0.68 mmol) and 2.0 M dimethylamine in tetrahydrofuran (1.3 ml, 2.7 mmol) in 10 ml NMP was heated at 100° C. for 16 hours. The reaction was quenched with 100 ml water. The mixture was extracted with ethyl acetate (3×30 ml) and dried over anhydrous sodium sulfate. N1,N1-dimethyl-4-nitro-N3-phenylbenzene-1,3-diamine (0.17 g, 100%) was obtained by flash column chromatograph (30% ethyl acetate in hexanes). 1H NMR (500 MHz, CDCl3) δ (ppm) 3.02 (s, 6H), 6.21 (d, J=2.6 Hz, 1H), 6.23 (s, 1H), 7.22-7.45 (m, 5H), 8.17 (d, J=2.6 Hz, 1H), 9.96 (s, 1H). 13C NMR (125 MHz, CDCl3): δ (ppm) 40.5, 93.6, 104.8, 124.9, 125.4, 129.5, 130.0, 139.8, 145.9, 155.5.

reactant | 5-bromo-2-nitro-N-phenylbenzenamine | 0.68 mmol, 0.2 g | BrC=1C=CC(=C(C1)NC1=CC=CC=C1)[N+](=O)[O-] | C12H9BrN2O2
reactant | dimethylamine | 2.0 M | CNC | C2H7N
reactant | tetrahydrofuran | 2.7 mmol, 1.3 ml | O1CCCC1 | C4H8O
solvent | NMP | 10 ml | CN1CCCC1=O | C5H9NO
product | N1,N1-dimethyl-4-nitro-N3-phenylbenzene-1,3-diamine | 0.17 g, 100% | CN(C1=CC(=C(C=C1)[N+](=O)[O-])NC1=CC=CC=C1)C | C14H15N3O2
